US07902252B2
2.37. Synthesis of methyl 4-(4-fluoro-2-methylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate
The title compound was synthesized in two steps. First, methyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate was reacted with (4-fluoro-2-methylbenzyl)magnesium bromide) according to General Procedure 3. The resulting product was then converted to the title compound by hydrogenation according to General Procedure 6.

reactant | methyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | O=C1CCC=2NC(=CC21)C(=O)OC | C9H9NO3
reactant | (4-fluoro-2-methylbenzyl)magnesium bromide | FC1=CC(=C(C[Mg]Br)C=C1)C
product | methyl 4-(4-fluoro-2-methylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | FC1=CC(=C(CC2CCC=3NC(=CC32)C(=O)OC)C=C1)C | C17H18FNO2
